US07893048B2
{4-[(2R,3R)-3-{[2-(2,3-dihydro-1-benzofuran-5-yl)-2-oxoethyl]thio}-1-(4-fluorophenyl)-4-oxoazetidin-2-yl]phenoxy}acetic acid
To a stirred solution of tert-butyl (4-{(2R,3R)-1-(4-fluorophenyl)-3-[(3-nitropyridin-2-yl)dithio]-4-oxoazetidin-2-yl}phenoxy)acetate (50.0 mg, 0.090 mmol) in acetone (6 ml) and water (0.8 ml) was added triphenylphosphine (33.3 mg, 0.013 mmol). The reaction mixture was stirred for 15 minutes. The solvent was removed under reduced pressure and the crude thiol was dissolved in DCM (12 ml). Et3N, (30 pd, 0.22 mmol) was added. After 5 minutes, 2-chloro-1-(2,3-dihydro-1-benzofuran-5-yl)ethanone (37.2 mg, 0.19 mmol) was added and the reaction mixture was stirred overnight. Additional triphenylphosphine (11.6 mg, 0.04 mmol), Et3N (10 μl, 1, 0.07 mmol) and 2-chloro-1-(2,3-dihydro-1-benzofuran-5-yl)ethanone (7.2 mg, 0.04 mmol) were added and the reaction mixture was stirred for 1 hour. The formation of the tert-butyl ester of the title compound was confirmed. M/z: 564.24 (M+1) and 562.21 (MA). To the DCM solution of the previous reaction was added TFA (6 ml) and the mixture was stirred for 1 hour. The solvent was removed under reduced pressure and the residue was purified with preparative HPLC on a C8 column. A gradient from 20 to 70% ACN in 0.1M NH4OAc buffer was used as eluent. The pure fractions were collected and the MeCN was removed under reduced pressure. The remaining water solution was diluted with additional water and EtOAc. The water phase was acidified with KHSO4 (2M) to pH 2. The phases were separated and the organic phase was passed through a phase separator and concentrated. The oily residue was dissolved in MeCN and water. After lyophilisation, the title compound was obtained. H-NMR (400 MHz, DMSO-d6): 3.17 (t, 2H), 4.23 (ABq, 2H), 4.28 (d, 1H), 4.52 (b, 2H), 4.59 (t, 2H), 5.11 (d, 1H), 6.78-6.88 (m, 3H), 7.09-7.15 (m, 2H) 7.16-7.22 (m, 2H), 7.30 (d, 2H), 7.71-7.76 (m, 1H), 7.79 (s, 1H). M/z: 508.13 (M+1) and 506.22 (M−1).

reactant | tert-butyl (4-{(2R,3R)-1-(4-fluorophenyl)-3-[(3-nitropyridin-2-yl)dithio]-4-oxoazetidin-2-yl}phenoxy)acetate | 0.090 mmol, 50.0 mg | FC1=CC=C(C=C1)N1[C@@H]([C@H](C1=O)SSC1=NC=CC=C1[N+](=O)[O-])C1=CC=C(OCC(=O)OC(C)(C)C)C=C1 | C26H24FN3O6S2
reactant | triphenylphosphine | 0.013 mmol, 33.3 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-chloro-1-(2,3-dihydro-1-benzofuran-5-yl)ethanone | 0.19 mmol, 37.2 mg | ClCC(=O)C=1C=CC2=C(CCO2)C1 | C10H9ClO2
reactant | triphenylphosphine | 0.04 mmol, 11.6 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Et3N | 0.07 mmol, 10 μl | CCN(CC)CC | C6H15N
reactant | 2-chloro-1-(2,3-dihydro-1-benzofuran-5-yl)ethanone | 0.04 mmol, 7.2 mg | ClCC(=O)C=1C=CC2=C(CCO2)C1 | C10H9ClO2
solvent | acetone | 6 ml | CC(=O)C | C3H6O
solvent | water | 0.8 ml | O | H2O
product | {4-[(2R,3R)-3-{[2-(2,3-dihydro-1-benzofuran-5-yl)-2-oxoethyl]thio}-1-(4-fluorophenyl)-4-oxoazetidin-2-yl]phenoxy}acetic acid | O1CCC2=C1C=CC(=C2)C(CS[C@@H]2[C@H](N(C2=O)C2=CC=C(C=C2)F)C2=CC=C(OCC(=O)O)C=C2)=O | C27H22FNO6S
